US06642379B1
Preparation of 2-(2-t-butyloxazol-4-yl)-3-chloro-2′-methyl-4′-trifluoromethoxybenzanilide (Compound No. 4-1)
0.4 Gram of 2-(2-t-butyloxazol-4-yl)-3-chlorobenzoic acid was dissolved in 30 ml of tetrahydrofuran, then 0.3 g of 2-methyl-4-trifluoromethoxyaniline, 0.4 g of DEPC and 0.3 g of triethylamine were added thereto, the resulting mixture was heated under reflux for 3 hours with stirring. After completion of the reaction, the reaction mixture was poured into water, and the objective product was extracted with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate, the residue obtained by removal of the solvent by distillation under reduced pressure was purified by the silica gel column chromatography to obtain 0.18 g (yield: 28%) of the objective product.

reactant | 2-(2-t-butyloxazol-4-yl)-3-chlorobenzoic acid | C(C)(C)(C)C=1OC=C(N1)C1=C(C(=O)O)C=CC=C1Cl | C14H14ClNO3
reactant | 2-methyl-4-trifluoromethoxyaniline | 0.3 g | CC1=C(N)C=CC(=C1)OC(F)(F)F | C8H8F3NO
reactant | DEPC | 0.4 g | CCOC(=O)OC(=O)OCC | C6H10O5
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-t-butyloxazol-4-yl)-3-chloro-2′-methyl-4′-trifluoromethoxybenzanilide | 0.18 g, yield: 28% | C(C)(C)(C)C=1OC=C(N1)C1=C(C(=O)NC2=C(C=C(C=C2)OC(F)(F)F)C)C=CC=C1Cl | C22H20ClF3N2O3
